US08664233B2
1.3 g (5.1 mmol) 3-amino-5-bromo-1H-indole-2-carboxylic acid amide was suspended in 50 ml dioxan and, after the addition of 670 μl (5.5 mmol) diphosgene, refluxed for 2 h. Having cooled down to room temperature, 2 ml water was carefully added and thereafter the precipitate was sucked off. 1.4 g (94%) 8-bromo-1H-pyrimido[5,4-b]indole-2,4(3H,5H)-dione was obtained. ESI-MS [m/z]: 278, 280 [M−H]−

reactant | 3-amino-5-bromo-1H-indole-2-carboxylic acid amide | 5.1 mmol, 1.3 g | NC1=C(NC2=CC=C(C=C12)Br)C(=O)N | C9H8BrN3O
reactant | diphosgene | 5.5 mmol, 670 μl | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | water | 2 ml | O | H2O
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 8-bromo-1H-pyrimido[5,4-b]indole-2,4(3H,5H)-dione | 1.4 g, 94% | BrC1=CC=2C3=C(NC2C=C1)C(NC(N3)=O)=O | C10H6BrN3O2
